US05128465
2-(5-Amino-1,2,4-thiadiazol-3-yl)-(Z)-2-fluoromethoxyiminoacetic acid
Added to trifluoroacetic acid (100 ml) was 2-(5-tritylamino-1,2,4-thiadiazol-3-yl)-(Z)-2-fluoromethoxyiminoacetic acid (13 g). The resulting mixture was stirred at room temperature for 24 hours. Trifluoroacetic acid was distilled off under reduced pressure. Water (100 ml) was added to the residue and an insoluble matter was filtered off. The solvent was distilled off from the filtrate under reduced pressure. The residue was crystallized from a 1:3 mixture of acetone and isopropyl ether, thereby obtaining the target product (2.18 g) as white crystals.

reactant | 2-(5-tritylamino-1,2,4-thiadiazol-3-yl)-(Z)-2-fluoromethoxyiminoacetic acid | 13 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC1=NC(=NS1)/C(/C(=O)O)=N/OCF | C24H19FN4O3S
solvent | trifluoroacetic acid | 100 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-(5-Amino-1,2,4-thiadiazol-3-yl)-(Z)-2-fluoromethoxyiminoacetic acid | 2.18 g | NC1=NC(=NS1)/C(/C(=O)O)=N/OCF | C5H5FN4O3S
